US05326770
5-[3-(Phenylmethoxy)phenylmethyl-ene]-2,4-thiazolidinedione
A solution of 3-benzyloxybenzaldehyde (42.45 g, 200 mmol), 2,4-thiazolidinedione (23.43 g, 200.0 mmol), and piperidine (2 g) in 150 ml pyridine was refluxed for 16 h. The mixture was concentrated in vacuo, and the residue was triturated with 500 ml hot benzene, filtered, and the filtrate left standing at room temperature for two days. The resulting crystals were collected by filtration, washed with petroleum ether, and dried to give the product in 100% yield; mp 233-235° C.; IR (nujol): 1741, 1688 (CO) cm-1 ; NMR (DMSOd6TMS): δ5.19 (s, 2H, ArCH2), 7.15-7.25 (m, 3H), 7.3-7.5 (m, 6H), 7.73 (s, 1H, C=CH); Anal calcd for C17H13NO3, MW 311.36: C, 65.58; H, 4.21; N, 4.50; S, 10.30. Found: C, 65.53; H, 3.91; N, 4.52; S, 10.30. Mass spec m/e 312(M+1).

reactant | 3-benzyloxybenzaldehyde | 200 mmol, 42.45 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | 2,4-thiazolidinedione | 200.0 mmol, 23.43 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 2 g | N1CCCCC1 | C5H11N
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 5-[3-(Phenylmethoxy)phenylmethyl-ene]-2,4-thiazolidinedione | 100% yield | C1(=CC=CC=C1)COC=1C=C(C=CC1)C=C1C(NC(S1)=O)=O | C17H13NO3S
